US04638006
A solution of hexahydro-5-oxo-1H-pyrrolizine-3-carboxylic acid ethyl ester (5.0 g, 0.0254 mol) in N,N-di-(2-methylethyl)aminoethylamine (10 g, 0.0693 mol) is stirred at room temperature 24 hours and heated at 80° C. for 24 hours. The solution is concentrated at reduced pressure and distilled to yield N-[2-[N,N-bis(1-methylethyl)amino]ethyl]-hexahydro-5-oxo-1H-pyrrolizine3-carboxamide, bp 155°-165° C. at 0.025 Torr.

reactant | hexahydro-5-oxo-1H-pyrrolizine-3-carboxylic acid ethyl ester | 0.0254 mol, 5.0 g | C(C)OC(=O)C1CCC2CCC(N12)=O | C10H15NO3
reactant | N,N-di-(2-methylethyl)aminoethylamine | 0.0693 mol, 10 g | CCCNN(NCCC)CC | C8H21N3
product | N-[2-[N,N-bis(1-methylethyl)amino]ethyl]-hexahydro-5-oxo-1H-pyrrolizine3-carboxamide | CC(C)N(C(C)C)CCNC(=O)C1CCC2CCC(N12)=O | C16H29N3O2
